US07161011B2
2-Benzylsulfanyl-5-hydroxymethyl-thiazole
325 mg of 2-benzylsulfanyl-thiazole-5-carbaldehyde in 35 ml of ethyl acetate are hydrogenated with 14 mg of FeCl2×4H2O and 175 mg of platinum oxide under normal pressure for 64 hours at room temperature under a hydrogen atmosphere. The reaction mixture is filtered off and extracted with water. The organic phase is dried over sodium sulfate and concentrated in vacua. The title compound is obtained in the form of an oil (compound 3.1).

reactant | 2-benzylsulfanyl-thiazole-5-carbaldehyde | 325 mg | C(C1=CC=CC=C1)SC=1SC(=CN1)C=O | C11H9NOS2
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 175 mg | [Pt]=O
product | 2-Benzylsulfanyl-5-hydroxymethyl-thiazole | C(C1=CC=CC=C1)SC=1SC(=CN1)CO | C11H11NOS2
